US04663331
In a similar manner to Example 1, 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide (1.57 g) and 7-(dimethylamino)hept-5-ynylamine (1.5 g) were reacted to give a solution of 3-methoxy-4-[7-dimethylaminohept-5-ynylamino]-1,2,5-thiadiazole-1-oxide. Reaction with ammonia gas and purification as in Example 1 gave the title compound (1.8 g), m.p. 154°-5° C. (recrystallisation from isopropanolethyl acetate).

reactant | 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide | 1.57 g | COC1=NS(N=C1OC)=O | C4H6N2O3S
reactant | 7-(dimethylamino)hept-5-ynylamine | 1.5 g | CN(CC#CCCCCN)C | C9H18N2
product | 3-methoxy-4-[7-dimethylaminohept-5-ynylamino]-1,2,5-thiadiazole-1-oxide | COC1=NS(N=C1NCCCCC#CCN(C)C)=O | C12H20N4O2S
